US06423725B1
1-[1-(1-Phenylcyclobuyl)-4-piperidinyl]-1,3-dihydro-2H-1,3-benzimidazol-2-one
This was prepared according to the procedure described in example 1 using 1-[4-(2-oxo-2,3-dihydro-1H-1,3-benzimidazol-1-yl)piperidino]-1-cyclobutanecarbonitrile and phenylmagnesium bromide. Yield was 48%.

reactant | 1-[4-(2-oxo-2,3-dihydro-1H-1,3-benzimidazol-1-yl)piperidino]-1-cyclobutanecarbonitrile | O=C1NC2=C(N1C1CCN(CC1)C1(CCC1)C#N)C=CC=C2 | C17H20N4O
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
product | 1-[1-(1-Phenylcyclobuyl)-4-piperidinyl]-1,3-dihydro-2H-1,3-benzimidazol-2-one | Yield was 48% | C1(=CC=CC=C1)C1(CCC1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C22H25N3O
